US08232409B2
E. 5,2′-Bistrifluoromethyl-biphenyl-3,4-diamine
5-Nitro-3,2′-bis-trifluoromethyl-biphenyl-4-ylamine (11.3 g, 32.5 mmol, as prepared in the previous step) was placed in a 500 mL round-bottom flask equipped with a magnetic stir bar. Anhydrous EtOH (150 mL) and 3M aq HCl (30 mL) were added via syringe. Iron powder (9.07 g, 162 mmol) was added, and the mixture was stirred at 80° C. for 6 h. The reaction was cooled to RT and filtered through a pad of Celite. The filter cake was washed with MeOH (300 mL). The solvent was removed under reduced pressure. The residue was dissolved in EtOAc (150 mL) and washed with water (150 mL). The aqueous layer was diluted with brine (100 mL) and extracted twice with EtOAc (50 mL). The combined organic extracts were washed with satd aq NaHCO3, dried over MgSO4, filtered, and the solvent was removed under reduced pressure. The material was used directly in the next step without further purification.

reactant | 5-Nitro-3,2′-bis-trifluoromethyl-biphenyl-4-ylamine | [N+](=O)([O-])C=1C(=C(C=C(C1)C1=C(C=CC=C1)C(F)(F)F)C(F)(F)F)N | C14H8F6N2O2
reactant | HCl | 3M, 30 mL | Cl | ClH
catalyst | Iron | 162 mmol, 9.07 g | [Fe] | Fe
solvent | EtOH | 150 mL | CCO | C2H6O
product | 5,2′-Bistrifluoromethyl-biphenyl-3,4-diamine | FC(C=1C(=C(C=C(C1)C1=C(C=CC=C1)C(F)(F)F)N)N)(F)F | C14H10F6N2
